US05077297
A mixture of 4-trifluoromethylpyrimidin-6-one (0.48 g), 2,4-dichloro-3,5-dinitrotrifluorobenzene (0.9 g) and potassium carbonate (0.41 g) in dry dimethylformamide (10 ml) was vigorously stirred at ambient temperature for a period of 15 minutes. The reaction mixture was then poured into water, and extracted into ethyl acetate. After drying and evaporation of the solvent, under reduced pressure, the residue was subjected to chromatography on silica gel using 30% (by volume) ethylacetate in petroleum ether (boiling range 60°-80° C.) as eluent. The required fractions were combined, and the solvent removed under reduced pressure to give a yellow solid, which was then triturated with petroleum ether (boiling range 60°-80° C.). The solid was dissolved in boiling ethanol, filtered, and the solvent removed under reduced pressure. The residue was again triturated with petroleum ether (boiling range 60°-80° C.) and finally recrystallised from petroleum ether (boiling range 60°-80° C.) containing ethylacetate (9% by volume) to give 1-(3-chloro-2,6-dinitro-4-trifluoromethylphenyl)-4-trifluoromethylpyrimidin-6-one as a yellow solid:

reactant | 4-trifluoromethylpyrimidin-6-one | 0.48 g | FC(C=1N=CNC(C1)=O)(F)F | C5H3F3N2O
reactant | 2,4-dichloro-3,5-dinitrotrifluorobenzene | 0.9 g | ClC1(C(C=C(C(=C1[N+](=O)[O-])Cl)[N+](=O)[O-])(F)F)F | C6HCl2F3N2O4
reactant | potassium carbonate | 0.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(3-chloro-2,6-dinitro-4-trifluoromethylphenyl)-4-trifluoromethylpyrimidin-6-one | ClC=1C(=C(C(=CC1C(F)(F)F)[N+](=O)[O-])N1C=NC(=CC1=O)C(F)(F)F)[N+](=O)[O-] | C12H3ClF6N4O5
